US08383821B2
tert-Butyl 4-((3-bromo-5-fluorobenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate.
1-Bromo-3-(bromomethyl)-5-fluorobenzene (0.8 g, 3.0 mmol) and tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (0.72 g, 2.5 mmol) were combined in dimethylformamide (8 mL) and cooled to 0° C. The reaction was treated with sodium hydride (120 mg, 4.98 mmol), stirred at 0° C. for 1 h, and at room temperature for 30 min. The reaction mixture was diluted with water and extracted with ethyl acetate (2×). The organic layers were pooled together, washed with brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (20% ethyl acetate/hexanes) gave 1.2 g (84%). 1H-NMR (CDCl3, 500 MHz) δ 7.34-7.38 (m, 4H), 7.24-7.25 (m, 1H), 7.08-7.10 (m, 1H), 7.01 (s, 1H), 6.70-6.72 (m, 1H), 4.29 (s, 2H), 3.74-3.77 (m, 2H), 3.38 (s, 2H), 3.00-3.06 (m, 2H), 2.17-2.20 (m, 2H), 1.84-1.90 (m, 2H), 1.44 (s, 9H). Mass spec.: 501.32 (MNa)+.

reactant | 1-Bromo-3-(bromomethyl)-5-fluorobenzene | 3.0 mmol, 0.8 g | BrC1=CC(=CC(=C1)F)CBr | C7H5Br2F
reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 2.5 mmol, 0.72 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
reactant | sodium hydride | 4.98 mmol, 120 mg | [H-].[Na+]
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl 4-((3-bromo-5-fluorobenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | BrC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)F | C24H29BrFNO3
